US05023253
1,1a, 2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl -6-[2-(2-chloroethoxy)ethoxy]-azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate
A solution of mitomycin A (100 mg) in 2 ml of 2-(2-chloroethoxy)ethanol was stirred at room temperature and under nitrogen for 45 minutes with 300 mg of a 1.6% solution of KOH in 2-(2-chloroethoxy)ethanol. The reaction mixture was decomposed with excess dry ice while immersing the flask into a water bath at room temperature. The reaction product was chromatographed on a silica gel column using first chloroform, which elutes the 2-(2-chloroethoxy)ethanol and then acetone, which elutes the product. The latter was purified twice by preparative thin layer chromatography on silica gel using chloroform as a solvent in the first purification and chloroform-acetone 1:1 in the second purification. This procedure gave 74 mg (58%) of the title compound, having a melting point of 101°-104° C. (decomposition) and providing the following analysis:

reactant | mitomycin A | 100 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | KOH | [OH-].[K+]
reactant | dry ice | C(=O)=O | CO2
reactant | 2-(2-chloroethoxy)ethanol | 2 ml | ClCCOCCO | C4H9ClO2
product | 1,1a, 2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl -6-[2-(2-chloroethoxy)ethoxy]-azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate | 74 mg, 58% | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)OCCOCCCl)C)=O)CC1C2N1)OC | InChI=1S/C18H23ClN2O6.CH3NO2/c1-9-14(23)13-12(15(24)16(9)27-6-5-26-4-3-19)10(8-22)18(25-2)17-11(20-17)7-21(13)18;2-1(3)4/h10-11,17,20,22H,3-8H2,1-2H3;2H2,(H,3,4)
